US04438275
(xviii) 6-Methyl-2,2,3-trifluoro-1,4-benzodioxane
124 g of 4-methylpyrocatechol were initially introduced into 300 ml of tetramethylene sulphone, together with 110 g of potassium hydroxide, at 110° C. 170 g of trifluorochloroethylene were then passed in in the course of 4 hours. The mixture was then distilled over a column under 15 mm Hg, the distillate being removed up to a transition temperature of 85° C. After separating off the aqueous phase in the receiver, the product was again distilled. 133 g ( 65% of theory) of 6-methyl-2,2,3-trifluoro-1,4-benzodioxene were obtained at a boiling point 70°-72° C./12 mm Hg (nD20 : 1.4565).

reactant | 4-methylpyrocatechol | 124 g | CC=1C=C(C(O)=CC1)O | C7H8O2
reactant | potassium hydroxide | 110 g | [OH-].[K+]
reactant | trifluorochloroethylene | 170 g | FC(=C(Cl)F)F | C2ClF3
solvent | tetramethylene sulphone | 300 ml | C1CCCS1(=O)=O | C4H8O2S
product | 6-Methyl-2,2,3-trifluoro-1,4-benzodioxane | CC1=CC2=C(OC(C(O2)F)(F)F)C=C1 | C9H7F3O2
